Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Risperdal / Zyprexa / Propranolol / Citalopram
 
Attending: ___.
 
Chief Complaint:
"I'm nervous"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Patient is a ___ y.o. man with hx of depression and anxiety with 
four previous admissions to Deac 4 (most recently in ___ p/w increased anxiety and agitation after recent changes 
in medication.  His depression was reportedly well controlled 
until recently when his antidepressant "stopped working."  He 
was put on Celexa for two weeks, which caused hives, then Prozac 
for a brief period of time "which also didn't agree with me" 
before being put on Effexor for ___ days.  The Effexor caused 
shock-like pain in his head.
.
He was seen by his outpatient psychiatrist Dr. ___ on ___, and 
Seroquel 25mg qhs was started to help w/ sleep in addition to 
pt's standing clonazepam 1mg qhs.  It would appear that over the 
next several days patient may have stopped taking clonazepam 
altogether (wife gives conflicting story) and became 
increasingly short-tempered with her.  Prior to being referred 
to ED, pt reported having urges to "throw things" at people, but 
had managed to refrain from doing so.  He describes a general 
increase in his anxiety and irritability.  His wife relates that 
he has been increasingly argumentative.  He denies any SI/HI or 
any hx of violence.  
 
Past Medical History:
-denies hx of suicide attempts or homicidal ideation
-diagnosed with major depression with psychotic features when
hospitalizaed at ___ in ___
-his second hospitalization was in ___ and patient was 
diagnosed with delusional disorder
-started on zoloft and klonopin in ___
-zoloft dicontinued because of side effect of dry mouth
-used to see Dr. ___, now sees Dr. ___ on risperdal in past reportedly had "shakiness", start of
dyskinesia
--previously on zyprexa, stopped because of "tremor" and
akithesia which continues
-neuropsych testing in ___ shows IQ in borderline MR ___ testing shows no indication of psychotic featurs,
shows patient has difficulty processing, is very concrete in his
thinking

PAST MEDICAL HISTORY (INCLUDE HIST ___ OF HEAD TRAUMA, SEIZURES,
OR OTHER NEUROLOGIC ILLNESS):
-mild MR
-___ lesions
-H. Pylori peptic ulcer disease
-asbestosis
_PCP: Dr. ___ at ___

 
Social History:
___
Family History:
- brother who killed himself by heroin overdose in ___
- questionable history of schizophrenia in another brother
- reports ___ siblings with bipolar d/o or depression

 
Physical Exam:
Temp:98.9  HR:72  BP:132/89  Resp:22  O2 Sat:100% 
General: Comfortable, well-appearing
HEENT: Normocephalic, atraumatic, extraocular muscles intact
Oropharynx within normal limits except for poor dentition. 
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdomen: soft, NT/ND, +BS
Extremties: warm, well perfused
Skin: warm and dry, no rashes or lesions
Neuro: speech fluent
 
Pertinent Results:
___ 10:30AM   GLUCOSE-125* UREA N-14 CREAT-0.9 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-101 TOTAL CO2-33* ANION GAP-11
___ 10:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 10:30AM   WBC-7.4 RBC-6.24* HGB-14.1 HCT-42.9 MCV-69* 
MCH-22.5* MCHC-32.8 RDW-13.5
___ 10:30AM   NEUTS-69.3 ___ MONOS-4.3 EOS-0.7 
BASOS-1.3
___ 10:30AM   PLT COUNT-226
 
Brief Hospital Course:
Patient was admitted to Deac 4 for observation and treatment and 
overall had an uneventful hospital course.
.
# Anxiety/Depression: Patient admitted with prior history of 
multiple failed medication trials, including Celexa (hives), 
Prozac ("didn't agree with me"), and Effexor (shock-like 
headache pain). Patient subsequently started on duloxetine 30 mg 
po daily (dual NE/HT agent with more balanced affinity for both 
transporters). Benefits, risks, side effects and alternatives 
discussed with patient. Given patient's anxiety and irritabilty, 
his quetiapine was increased from 50 mg qhs to bid, and he was 
continued on his home clonazepam 1 mg qhs without event. Patient 
reported rapid improvement in his anxiety and mood during his 
brief hospitalization. He reported no side effects from the 
medications; specifically, he denied any sleepiness, 
restlessness, or GI upset. Given the increase in quetiapine, 
metabolic labs including fasting lipids, glucose, and HgbA1c 
were drawn on day of discharge.
.
# Medical: Patinet was maintained on his home lisinopril, 
atenolol and HCTZ without event. Blood pressure remained stable 
throughout. He was also maintained on his home tamsulosin, 
omeprazole, and amantadine at the same doses without event.
.
# Psychosocial: Patient had limited participation in groups but 
interacted nicely with staff and peers.
.
# Legal: ___
# Safety: q15 mins. Patient had stable mood. He remained in good 
behavioral control throughout his hospitalization, with no 
reports of SI/HI, and was accepting treatment.
 
Medications on Admission:
- amantidine 100mg BID
- atenolol 100mg daily
- azithromycin 250mg daily
- clonazepam 1mg qhs (pt reports he has not been taking it)
- hctz 25mg daily
- lisinopril 10mg daily
- omeprazole 20mg daily
- seroquel 25mg daily (supposed to inc to 50mg tonight)
- tamsulosin 

 
Discharge Medications:
1. clonazepam 1 mg Tablet Sig: One (1) Tablet PO QHS (once a day 
(at bedtime)).
Disp:*30 Tablet(s)* Refills:*0*
2. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
3. atenolol 50 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
4. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
6. amantadine 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
7. tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
8. quetiapine 50 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*28 Tablet(s)* Refills:*0*
9. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).
Disp:*30 Capsule, Delayed Release(E.C.)(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
AXIS I: major depressive disorder with psychotic features, 
anxiety disorder
AXIS II: deferred
AXIS III: hypertension

 
Discharge Condition:
General: elderly short ___ man, shaved head, wearing tinted 
glasses.
Behavior: polite, friendly, cooperative, appropriate eye 
contact, no PMR/PMA.
Speech: Fluent, slightly accented, normal volume, rate and tone. 

Mood: 'I feel good.'
Affect: Smiling, bright, congruent with stated mood.
TC: No SI/HI, delusions, hallucinations. 
TP: Linear, logical, goal-directed.
I/J: Intact
Cogition: A&O x3
 
Discharge Instructions:
Please continue taking all of your medications as prescribed.
Please follow up with your psychiatrist Dr. ___ and your 
primary care physician ___.
If you experience any changes in mood, sedation, difficulty 
sleeping, or changes in weight or appetite, please contact your 
doctor.
Please contact your doctors with any questions or concerns.
.
* It has been a pleasure working with you during your admission. 
*
 
Followup Instructions:
___